US06566337B1
(2E)-5-Amino-5-methylhex-2-enoic acid N-methyl-N-[(1R)-1-(N-methyl-N-{(1R)1-[N-methyl-(2-(4-pyridinyl)ethyl)carbamoyl]-2-phenylethyl}carbamoyl)-2-(2-naphthyl)ethyl]amide
The title compound was prepared as in example 1 (except from step 3, see below) using 4-[2-(Methylamino)ethyl]pyridin, (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid, (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid and (2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid.

reactant | 4-[2-(Methylamino)ethyl]pyridin | CNCCC1=CC=NC=C1 | C8H12N2
reactant | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | (2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
product | (2E)-5-Amino-5-methylhex-2-enoic acid N-methyl-N-[(1R)-1-(N-methyl-N-{(1R)1-[N-methyl-(2-(4-pyridinyl)ethyl)carbamoyl]-2-phenylethyl}carbamoyl)-2-(2-naphthyl)ethyl]amide | CN(C(\C=C\CC(C)(C)N)=O)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(N(C)CCC1=CC=NC=C1)=O)C)=O | C39H47N5O3
